US04719222
2-(2-Isopropyl-5-oxo-1-imidazolidineacetamido)acetamide
The same procedure of example 9, starting from glycylglycylglycinamide and isobutyraldehyde, afforded the title compound as a white hygroscopic solid, m.p. 65°-70° C. Mass spectrum (E.I., 70 eV, 1.5 mA), m/z=199 (M+ --C3H7).

reactant | glycylglycylglycinamide | NCC(=O)NCC(=O)NCC(=O)N | C6H12N4O3
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
product | 2-(2-Isopropyl-5-oxo-1-imidazolidineacetamido)acetamide | C(C)(C)C1N(C(CN1)=O)CC(=O)NCC(=O)N | C10H18N4O3
